US07534802B2
2-Cyanopyridine-4-methanol (Reference compound No. 11-1)
Tetra-n-butylammonium fluoride trihydrate (1.1 g, 3.5 mmol) was added to a solution of 2-cyano-4-(trimethylsilyloxymethyl)pyridine (600 mg, 2.9 mmol, Reference compound No. 10-1) in tetrahydrofuran (15 mL) at room temperature, then the mixture was stirred for 3 hours. The solvent was evaporated under reduced pressure, and then the resulting residue was purified- by silica gel column chromatography to give 120 mg of the title reference compound as a yellow solid. (Yield 32%)

reactant | Tetra-n-butylammonium fluoride trihydrate | 3.5 mmol, 1.1 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-cyano-4-(trimethylsilyloxymethyl)pyridine | C(#N)C1=NC=CC(=C1)CO[Si](C)(C)C | C10H14N2OSi
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-Cyanopyridine-4-methanol | Yield 32% | C(#N)C1=NC=CC(=C1)CO | C7H6N2O
